US09416115B2
tert-butyl(S)-2-(((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)methyl)pyrrolidine-1-carboxylate
Diisopropylazodicarboxylate 40% solution in toluene (0.27 mL, 0.51 mmol) was added under stirring to a solution of 5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-ol (100 mg, 0.34 mmol), triphenylphosphine on resin (3 mmol/g) (330 mg, 1 mmol), and 1-methylimidazol-4-yl methanol (60 mg, 0.51 mmol) in THF. The reaction mixture was stirred at ambient temperature overnight. Volatiles were evaporated under vacuum and the residue was purified on 12 g silica gel with 0-60% ethyl acetate in hexane and gave the title compound (104 mg, 0.22 mmol).

reactant | Diisopropylazodicarboxylate | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | toluene | 0.51 mmol, 0.27 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-ol | 0.34 mmol, 100 mg | FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)O)C1)(F)F | C14H8F3NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methylimidazol-4-yl methanol | 0.51 mmol, 60 mg | CN1C=NC(=C1)CO | C5H8N2O
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl(S)-2-(((5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-yl)oxy)methyl)pyrrolidine-1-carboxylate | 0.22 mmol, 104 mg | FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1)(F)F | C24H25F3N2O5
